US07897766B2
5-(Pyridin-2-yl)-thiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 5-(2-pyridyl)thiophene-2-carboxylic acid (Maybridge) according to methods A and C; yield 35 mg, 0.09 mmol (43%): 1H NMR (300 MHz, methanol-d4) δ 2.07-2.29 (m, 5H), 2.48 (s, 2H), 3.49 (d, J=12 Hz, 2H), 3.56 (s, 2H), 3.83 (d, J=13 Hz, 2H), 4.26 (s, 1H), 7.29-7.39 (m, 1H), 7.71 (d, J=4 Hz, 1H), 7.83-7.91 (m, 3H), 8.50-8.56 (m, 1H); MS (DCI/NH3) m/z 340 (M+H)+; Anal. C19H21N3OS.HCl.0.5H2O: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 5-(2-pyridyl)thiophene-2-carboxylic acid | N1=C(C=CC=C1)C1=CC=C(S1)C(=O)O | C10H7NO2S
reactant | NH3 | N | H3N
product | 5-(Pyridin-2-yl)-thiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2SC(=CC2)C2=NC=CC=C2 | InChI=1S/C19H21N3OS.ClH/c23-19(17-5-4-16(24-17)15-3-1-2-6-20-15)21-18-13-7-12-8-14(18)11-22(9-12)10-13;/h1-6,12-14,18H,7-11H2,(H,21,23);1H/t12?,13?,14?,18-;
